US06727264B1
METHYL 3-[5-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}METHYL)-2-FURYL]-2-THIOPHENECARBOXYLATE:
Prepared by Procedure F and Scheme R using methyl 3-(5-formyl-2-furyl)-2-thiophenecarboxylate and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 467.1 (M+H)+.

reactant | methyl 3-(5-formyl-2-furyl)-2-thiophenecarboxylate | C(=O)C1=CC=C(O1)C1=C(SC=C1)C(=O)OC | C11H8O4S
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | METHYL 3-[5-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}METHYL)-2-FURYL]-2-THIOPHENECARBOXYLATE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CC1=CC=C(O1)C1=C(SC=C1)C(=O)OC | C26H30N2O4S
